US07345178B2
A solution of 5-nitrothiophene-2carboxylic acid (5.0 g, 28.9 mmol) and SOCl2 (40 mL) was refluxed for 2 hrs. The solvent was removed in vacuo followed by addition of 4-amino-3-hydroxypyridine (2.65 g, 24.1 mmol) in pyridine (150 mL). The mixture was stirred at 10° C. overnight. Na2CO3 (1.53 g, 14.5 mmol) in water (100 mL) was added and stirred for 1 hr followed by adding AcOH to adjust pH=7. The precipitate was collected by filtration, washed with 10% AcOH (30 mL×2) and dried to give N-(3-hydroxypyridin-4-yl)-5-nitrothiophene-2-carboxamide as a yellow powder (5.0 g, yield 78%).

reactant | 5-nitrothiophene-2carboxylic acid | 28.9 mmol, 5.0 g | [N+](=O)([O-])C1=CC=C(S1)C(=O)O | C5H3NO4S
reactant | SOCl2 | 40 mL | O=S(Cl)Cl | Cl2OS
reactant | 4-amino-3-hydroxypyridine | 24.1 mmol, 2.65 g | NC1=C(C=NC=C1)O | C5H6N2O
reactant | Na2CO3 | 14.5 mmol, 1.53 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 100 mL | O | H2O
solvent | AcOH | CC(=O)O | C2H4O2
product | N-(3-hydroxypyridin-4-yl)-5-nitrothiophene-2-carboxamide | 5.0 g, yield 78% | OC=1C=NC=CC1NC(=O)C=1SC(=CC1)[N+](=O)[O-] | C10H7N3O4S
